US04607128
A mixture of 50.48 g of methallyl alcohol, 63.2 g of 4-chlorobenzotrifluoride and 69 g of 85% flake potassium hydroxide in 175 ml sulpholane was stirred under nitrogen at 120°-145° C. for 21 hours. The mixture was then cooled, added to 200 ml water and extracted twice with 60°/80° petroleum ether. The solvent was removed and the residue was purified by fractionation to give isobutenyl 4-trifluoromethylphenyl ether, b.p.: 77°-77.5° C. at 8 Torr.

reactant | methallyl alcohol | 50.48 g | C(C(C)=C)O | C4H8O
reactant | 4-chlorobenzotrifluoride | 63.2 g | ClC1=CC=C(C=C1)C(F)(F)F | C7H4ClF3
reactant | potassium hydroxide | 69 g | [OH-].[K+]
reactant | water | 200 ml | O | H2O
solvent | sulpholane | 175 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | isobutenyl 4-trifluoromethylphenyl ether | FC(C1=CC=C(C=C1)OC=C(C)C)(F)F | C11H11F3O
